US07608629B2
Combine sodium methoxide (290 mg, 5.38 mmol), paraformaldehyde (94 mg, 3.13 mmol), 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine (preparation 60, 260 mg, 1.25 mmol) and methanol (5 mL), heat at 50° C. for 20 hr. Add NaBH4 (85 mg, 2.25 mmol), beat at reflux for 1.5 hr. Then add 1.0N KOH solution (2 mL), beat at reflux for 2 hr. Partition between water and CH2Cl2, extract aqueous phase with CH2Cl2. Combine organic layers, dry over Na2SO4, filter and concentrate to give a residue. Chromatography (silica gel) eluting with 5% 2M NH3-methanol in methylene dichloride provides 230 mg of methyl-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-amine with a small amount (5-10%) of inseparable starting amine.

reactant | sodium methoxide | 5.38 mmol, 290 mg | C[O-].[Na+]
reactant | paraformaldehyde | 3.13 mmol, 94 mg | C=O | CH2O
reactant | 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine | 1.25 mmol, 260 mg | CN1CCC(CC1)OC1=CC=CC(=N1)N | C11H17N3O
reactant | NaBH4 | 2.25 mmol, 85 mg | [BH4-].[Na+]
reactant | KOH | 1.0N, 2 mL | [OH-].[K+]
solvent | methanol | 5 mL | CO | CH4O
product | methyl-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-amine | 230 mg | CNC1=NC(=CC=C1)OC1CCN(CC1)C | C12H19N3O
